US06656938B2
A solution of tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate (7.05 g, 15.9 mmol) in 100 mL of 1,2-dichloroethane was heated to 80° C. and treated with 5 mL of concentrated NH4OH solution. To the rapidly stirred solution was added solid p-toluenesulfonyl chloride (3.33 g, 17.5 mmol) over a 10 min period. The reaction mixture was treated with an additional 5 mL concentrated NH4OH solution and then sealed in a pressure vessel and heating was continued for 4 h. The reaction mixture was then cooled and treated with 100 mL of CH2Cl2. The reaction mixture was then washed with H2O, 1% Na2CO3 solution (3×) and brine. The organic portion was dried over Na2SO4 and concentrated to give 6.50 g of tert-butyl 2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate as a brown oil.

reactant | tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate | 15.9 mmol, 7.05 g | COCCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCN(C(OC(C)(C)C)=O)C | C23H32N4O5
reactant | NH4OH | 5 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 17.5 mmol, 3.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NH4OH | 5 mL | [NH4+].[OH-]
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | tert-butyl 2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate | 6.50 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCN(C(OC(C)(C)C)=O)C)CCOC | C23H33N5O4
